US04694017
1.3 Grams of 2-amino-3-(oxindol-3-yl)propionic acid hydrochloride prepared in reference example 1 was dissolved in 80 ml of dimethylformamide. To this solution was added 1.2 g of triethylamine, then under an ice-cooled condition, 0.8 g of benzoyl chloride was added dropwise thereto. The reaction mixture was stirred under an ice-cooled condition for 3 hours, then the reaction mixture was concentrated under a reduced pressure, to the residue thus obtained was added water, the crystals formed were collected by filtration. Recrystallized from ethanol-water to obtain 0.5 g of 2-benzamido-3-(oxindol-3-yl)propionic acid in the form of light brown powdery substance. Melting point: 140°-142° C. (decomp.) [α]D20 -66° (C=0.1, methanol)

reactant | 2-amino-3-(oxindol-3-yl)propionic acid hydrochloride | Cl.NC(C(=O)O)CC1C(NC2=CC=CC=C12)=O
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-benzamido-3-(oxindol-3-yl)propionic acid | 0.5 g | C(C1=CC=CC=C1)(=O)NC(C(=O)O)CC1C(NC2=CC=CC=C12)=O | C18H16N2O4
